US05391566
Step D: Preparation of N-methylbenzimidazolinone
Cesium carbonate (814.5 mg, 2.5 mmol) was added to a stirred solution of benzimidazolinone (335 mg, 2.5 mmol) in DMF (10 mL) under nitrogen at room temperature. After stirring for 30 min., methyl iodide (355 mg, 2.5 mmol) was added and the mixture stirred at room temperature for 18 h. Water was added and the mixture extracted with ethyl acetate. The organic phase was washed with water, dried (magnesium sulfate) and the solvent removed in vacuo. The residue was chromatographed (10-50% ethyl acetate/hexane) to give the title compound (43 mg, 12%) as a white solid.

reactant | Cesium carbonate | 2.5 mmol, 814.5 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzimidazolinone | 2.5 mmol, 335 mg | N1C(NC2=C1C=CC=C2)=O | C7H6N2O
reactant | methyl iodide | 2.5 mmol, 355 mg | CI | CH3I
reactant | Water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-methylbenzimidazolinone | 43 mg, 12% | CN1C(NC2=C1C=CC=C2)=O | C8H8N2O
